US04717783
1,3-Bis(trimethylsilyl)cyclopentadiene (10.5 g, 0.05 mole) is reacted with 32 ml of a 1.6M solution of butyllithium (0.05 mole) in hexane to give 6.3 g of lithium 1,3-bis(trimethylsilyl)cyclopentadienide.

reactant | 1,3-Bis(trimethylsilyl)cyclopentadiene | 0.05 mole, 10.5 g | C[Si](C1=CC(=CC1)[Si](C)(C)C)(C)C | C11H22Si2
reactant | butyllithium | 0.05 mole | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
product | lithium 1,3-bis(trimethylsilyl)cyclopentadienide | 6.3 g | C[Si]([C-]1C=C(C=C1)[Si](C)(C)C)(C)C.[Li+] | InChI=1S/C11H21Si2.Li/c1-12(2,3)10-7-8-11(9-10)13(4,5)6;/h7-9H,1-6H3;/q-1;+1
